Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Colonic obstruction
 
Major Surgical or Invasive Procedure:
1. Laparoscopic left colectomy (___)

 
History of Present Illness:
___ with HTN, DM2, PUD, and ischemic colitis presents with
abdominal pain.  She was admitted 7 months ago for abdominal 
pain
with concern for transverse colon mass that was later diagnosed
as ischemic colitis.  The patient underwent diagnostic
laparoscopy with Dr. ___ bowel resection was performed,
and the patient was discharged on POD#4.  There was also
paroxysmal Afib at that time, without overt evidence of
mesenteric vascular disease/occlusion.  She currently denies
anticoagulation, and it is unclear if she followed up with her
PCP for cardiac workup as planned at time of discharge.  

Her current complaints began with two or three episodes of light
___ to yellow diarrhea (No evidence of blood or melena) last
night.  She then had abdominal pain in the middle of the night. 
In the morning, she had a firm stool that was ___ and reports 
a
few drops of blood in the toilet water above the stool, but she
is clear that there was no blood in the stool and she believes 
it
was minimal blood in the toilet.  Her abdominal pain persisted 
so
she reportedly called an ambulance to be taken to the ED.  She
denies CP, SOB, light headedness, nausea, vomiting.  She denies
symptoms of mesenteric ischemia such as food fear, worsening 
pain
after eating, or recently weight loss.  She is passing gas in 
the
ED. She does report a history of hemorrhoids and also admits to
being a vigorous wiper, which causes discomfort for her after
multiple bowel movements.  EKG in the ED is NSR. She is 
non-toxic
appearing in the ED.
 
Past Medical History:
Lumbar spine stenosis
Mesenteric ischemia (___)
Sciatica
Hypertension
Diabetes mellitus type 2
Osteoarthritis
Left cataract
Left ear tinnitus
Hysterectomy due to fibroids
 
Social History:
___
Family History:
Sister with breast cancer. Denies early CAD or MI. 
Sister with breast cancer. Denies early CAD or MI. 
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
 
Pertinent Results:
___ 04:00PM   HGB-9.7* calcHCT-29
___ 04:00PM   ___ PO2-94 PCO2-54* PH-7.15* TOTAL 
CO2-20* BASE XS--10 INTUBATED-INTUBATED VENT-CONTROLLED
___ 07:50PM   PLT COUNT-349
___ 07:50PM   CALCIUM-8.5 PHOSPHATE-5.0* MAGNESIUM-2.4
___ 07:50PM   GLUCOSE-246* UREA N-27* CREAT-1.4* SODIUM-138 
POTASSIUM-4.7 CHLORIDE-107 TOTAL CO2-17* ANION GAP-14
___ 07:50PM   estGFR-Using this
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for a 
laparoscopic left colectomy. She tolerated the procedure well 
without complications (Please see operative note for further 
details). After a brief and uneventful stay in the PACU, the 
patient was transferred to the floor for further post-operative 
management.
Neuro: Pain was well controlled on Tylenol and tramadol for 
breakthrough pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. She had good 
pulmonary toileting, as early ambulation and incentive 
spirometry were encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was advanced to a regular diet, however on ___, she 
developed worsening abdominal distention. She underwent a CT 
scan that was significant for a post-operative seroma. She 
remained afebrile and WBC remained normal throughout admission.  
Patient's intake and output were closely monitored
GU: The patient had a Foley catheter that was removed prior to 
discharge. At time of discharge, the patient was voiding without 
difficulty. Urine output was monitored as indicated.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. She was encouraged to get up and 
ambulate as early as possible. The patient is being discharged 
on prophylactic Lovenox. 
On ___ the patient was discharged to home. At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] None
Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[x ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[ ] No social factors contributing in delay of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine (Extended Release) 90 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. NovoLOG Flexpen U-100 Insulin (insulin aspart U-100) 100 
unit/mL subcutaneous TID 
4. Vitamin D 1000 UNIT PO DAILY 
5. Polyethylene Glycol 17 g PO DAILY 
6. Atenolol 100 mg PO DAILY 
7. Cyanocobalamin 50 mcg PO DAILY 
8. TraMADol 100 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0 
2.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg SQ once a day Disp #*28 
Syringe Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QPM lower back 
RX *lidocaine 5 %  once a day Disp #*30 Patch Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth q6hr:PRN Disp #*30 
Tablet Refills:*0 
5.  Atenolol 100 mg PO DAILY  
6.  Cyanocobalamin 50 mcg PO DAILY  
7.  NIFEdipine (Extended Release) 90 mg PO DAILY  
8.  NovoLOG Flexpen U-100 Insulin (insulin aspart U-100) 100 
unit/mL subcutaneous TID  
9.  Omeprazole 20 mg PO BID  
10.  Polyethylene Glycol 17 g PO DAILY  
11.  TraMADol 100 mg PO BID  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.Chronic ischemic colitis of splenic flexure
2. Hypertension
3. Type II diabetes
4. Back pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___

You were admitted to the hospital after an uncomplicated 
Laparoscopic Colectomy for surgical management of your chronic 
ischemic colitis/stricture. You have recovered from this 
procedure and you are now ready to return home. 
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. However, you may 
have loose stool and passing of small amounts of dark, old 
appearing blood. If you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. While taking narcotic pain medications you are 
at risk for constipation, please take an over the counter stool 
softener such as Colace.

You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures.  It is important that 
you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/foul smelling drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. You may shower; pat the incisions dry with 
a towel, do not rub.  If you have steri-strips (the small white 
strips), they will fall off over time, please do not remove 
them. Please do not take a bath or swim until cleared by the 
surgical team.

Pain is expected after surgery. This will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 24 
hours or any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while taking Tylenol.  You may 
also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should take a dose of the narcotic pain 
medication.  Please do not take sedating medications, drink 
alcohol, or drive while taking the narcotic pain medication. 

You are being discharged home on Lovenox injections to prevent 
blood clots after surgery. You will take this medication for a 
total of 30 days (including doses in hospital), please finish 
the entire prescription. Please monitor for any signs of 
bleeding: fast heart rate, bloody bowel movements, abdominal 
pain, bruising, feeling faint or weak. If you have any of these 
symptoms please call our office or seek medical attention 
immediately. Please avoid any contact activity and take extra 
caution to avoid falling while taking Lovenox.  

You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs and 
go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit. 
  
Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___